US08809371B2
Potassium carbonate (83 mg) and methyl iodide (62 W) were added to an N,N-dimethylacetamide (1 ml) solution containing 3-(5-bromopyridin-3-yl)aniline (50 mg), followed by stirring at 80° C. for 4 hours. Water was added, followed by extraction with ethyl acetate. The resultant was washed with saturated saline and dried over anhydrous sodium sulfate. Subsequently, the solvent was distilled away under reduced pressure, the obtained residue was purified by silica gel chromatography (n-hexane:ethyl acetate=10:1 to 3:1), and a white solid of 3-(5-bromopyridin-3-yl)-N,N-dimethylaniline (7.1 mg) was thus obtained.

reactant | Potassium carbonate | 83 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | CI | CH3I
reactant | N,N-dimethylacetamide | 1 ml | CN(C(C)=O)C | C4H9NO
reactant | 3-(5-bromopyridin-3-yl)aniline | 50 mg | BrC=1C=C(C=NC1)C=1C=C(N)C=CC1 | C11H9BrN2
solvent | Water | O | H2O
product | 3-(5-bromopyridin-3-yl)-N,N-dimethylaniline | 7.1 mg | BrC=1C=C(C=NC1)C=1C=C(N(C)C)C=CC1 | C13H13BrN2
